US08034827B2
a) 4-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-benzonitrile
Under argon, a solution of 4-(2-hydroxy-ethyl)-benzonitrile [Helv. Chim. Acta 64 (1981) 1688-1703] (4.49 g, 30.5 mmol), phthalimide (4.94 g, 33.55 mmol), triphenylphosphine (8.8 g, 33.55 mmol) and dimethyl formamide (100 mL) was stirred at 0° C. for 20 minutes, then diethyl azodicarboxylate (7.59 mL, 48.8 mmol) was added dropwise at 0° C. The so obtained reaction mixture was stirred at room temperature overnight, then poured into ice-water (740 mL). The precipitated product was filtered off, washed with water and dried. The crude product was recrystallized from 2-propanol to yield 7.83 g (93%) of the title compound as a yellow solid.

reactant | 4-(2-hydroxy-ethyl)-benzonitrile | 30.5 mmol, 4.49 g | OCCC1=CC=C(C#N)C=C1 | C9H9NO
reactant | phthalimide | 33.55 mmol, 4.94 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 33.55 mmol, 8.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 48.8 mmol, 7.59 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dimethyl formamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-benzonitrile | 7.83 g, 93% | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC=C(C#N)C=C1 | C17H12N2O2
